US07951815B2
N-tert-Butyloxycarbonylpiperidone (5.9 g, 29.8 mmol) and triethylamine (3.02 g, 29.8 mmol) were added to a solution of (S)-methioninamide hydrochloride (5.5 g, 29.8 mmol) in dry EtOH (66 ml) and the mixture was heated for 2.5 h under reflux. After addition of water (50 ml) and CH2Cl2 (200 ml), the organic phase was separated off and the aqueous phase was extracted with CH2Cl2 (3×20 ml). The combined organic phases were dried over Na2SO4. After filtration, the solvent was distilled off. tert-Butyl 3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate was obtained in a yield of 8.0 g (82%).

reactant | N-tert-Butyloxycarbonylpiperidone | 29.8 mmol, 5.9 g | C(C)(C)(C)OC(=O)N1C(CCCC1)=O | C10H17NO3
reactant | triethylamine | 29.8 mmol, 3.02 g | C(C)N(CC)CC | C6H15N
reactant | (S)-methioninamide hydrochloride | 29.8 mmol, 5.5 g | Cl.N[C@@H](CCSC)C(=O)N
reactant | water | 50 ml | O | H2O
solvent | EtOH | 66 ml | CCO | C2H6O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | CSCC[C@H]1C(NC2(N1)CCN(CC2)C(=O)OC(C)(C)C)=O | C15H27N3O3S
